US08293768B2
Synthesis of 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid
Following the procedure as described in Example 30, making variations as required to replace ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate with ethyl 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate, the title compound was obtained as a colorless solid in 96% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.96 (br s, 1H), 8.72 (s, 1H), 7.26 (s, 1H), 3.81 (t, J=6.5 Hz, 2H), 2.46 (s, 3H), 1.62-1.52 (m, 2H), 0.75-0.60 (m, 1H), 0.40-0.32 (m, 2H), 0.05-0.05 (m, 2H); MS (ES−) m/z 292.3 (M−1).

reactant | ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)OCC)C)C=C1 | C17H16FN3O3S
reactant | ethyl 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | C1(CC1)CCN1N=CN(C1=O)C1=CC(=C(S1)C(=O)OCC)C | C15H19N3O3S
product | 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | 96% yield | C1(CC1)CCN1N=CN(C1=O)C1=CC(=C(S1)C(=O)O)C | C13H15N3O3S
